US06225311B1
To a solution of 0.45 g (1.08 mmol) of methyl 2-[{[4-(2-butynyloxy)-phenyl]-sulfonyl}(3-chloropropyl)amino]-3-methylbutanoate in 5.0 mL of DMF was added 0.163 g (1.08 mmol) of sodium iodide and 0.34 mL (3.24 mmol) of diethylamine. The reaction was heated to 80° C. for 3 h and then cooled to room temperature. The mixture was then diluted with water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to provide 0.441 g of methyl 2-{{[4-(2-butynyloxy)-phenyl]sulfonyl}[3-(diethylamino)propyl]amino}-3-methylbutanoate as a brown oil. Electrospray Mass Spec 453.5 (M+H)+

reactant | methyl 2-[{[4-(2-butynyloxy)-phenyl]-sulfonyl}(3-chloropropyl)amino]-3-methylbutanoate | 1.08 mmol, 0.45 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C(C)C)CCCCl | C19H26ClNO5S
reactant | sodium iodide | 1.08 mmol, 0.163 g | [I-].[Na+]
reactant | diethylamine | 3.24 mmol, 0.34 mL | C(C)NCC | C4H11N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 2-{{[4-(2-butynyloxy)-phenyl]sulfonyl}[3-(diethylamino)propyl]amino}-3-methylbutanoate | 0.441 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C(C)C)CCCN(CC)CC | C23H36N2O5S
